US04113464
Preparation of N-Methyl-N-(2,2-dimethoxyethyl)-α-chloroacetamide
The dimethylacetal of 2-methylaminoacetaldehyde (50 grams; 0.42 mole), methylene chloride (200 ml) and triethylamine (46.6 grams; 0.462 mole) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer, addition funnel and calcium chloride drying tube. The reaction mixture was cooled to about -20° C. and chloroacetyl chloride (49.7 grams; 0.44 mole) dissolved in methylene chloride (29 ml) was added dropwise with stirring. After the addition was completed stirring was continued for a period of about 60 minutes at a temperature of from -20° C. to -10° C. The reaction mixture was then stirred at room temperature overnight. After this time ether (125 ml) was added and the reaction mixture was filtered. The filtrate was then washed with water and dilute aqueous sodium hydroxide. The washed solution was dried over anhydrous magnesium sulfate, filtered and stripped of solvent under reduced pressure to yield the desired product N-methyl-N-(2,2-dimethoxyethyl)-α-chloroacetamide having a boiling point of 117° to 119° C. at 0.30 mm of Hg pressure.

reactant | 2-methylaminoacetaldehyde | 0.42 mole, 50 grams | CNCC=O | C3H7NO
reactant | triethylamine | 0.462 mole, 46.6 grams | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.44 mole, 49.7 grams | ClCC(=O)Cl | C2H2Cl2O
reactant | ether | 125 ml | CCOCC | C4H10O
solvent | methylene chloride | 29 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-N-(2,2-dimethoxyethyl)-α-chloroacetamide | CN(C(CCl)=O)CC(OC)OC | C7H14ClNO3
